US07547710B2
To a solution of 6-[3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]hexanoic acid (885 mg, 1.71 mmol) and potassium carbonate (469 mg, 3.39 mmol) in N,N-dimethylformamide (40 ml) was added methyl iodide (291 mg, 2.05 mmol), and the mixture was stirred at room temperature for 12 hrs. The reaction mixture was diluted with ethyl acetate, washed with 1N hydrochloric acid, saturated aqueous sodium hydrogen carbonate and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography to give methyl 6-[3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]hexanoate (870 mg, yield 96%) as white crystals. Subsequently, methyl 6-[3-(aminomethyl)-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]hexanoate was synthesized by a method similar to the method shown in Example 32(2).

reactant | 6-[3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]hexanoic acid | 1.71 mmol, 885 mg | C(C)(C)(C)OC(=O)NCC=1C(=NC2=CC=C(C=C2C1C1=CC=C(C=C1)C)CCCCCC(=O)O)CC(C)C | C32H42N2O4
reactant | potassium carbonate | 3.39 mmol, 469 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 2.05 mmol, 291 mg | CI | CH3I
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 6-[3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]hexanoate | 870 mg, yield 96% | C(C)(C)(C)OC(=O)NCC=1C(=NC2=CC=C(C=C2C1C1=CC=C(C=C1)C)CCCCCC(=O)OC)CC(C)C | C33H44N2O4
